US07375227B2
363E. 1-{2-[4-(2-Methoxy-phenyl)-piperidin-1-yl]-ethyl}3-(2-methyl-quinolin-4-yl)-urea
To a solution of 4-(2-methoxy-phenyl)-piperidine (0.03 mmol) in dry THF (1 mL) is added 1-(2-chloro-ethyl)-3-quinolin-4-yl-urea (0.03 mmol), solid NaHCO3 (2.5 mg), and NaI (1 mg). The flask is tightly sealed, and shaken at 70° C. for 6 days. The reaction mixture is evaporated, taken up in aqueous formic acid, and purified by preparative HPLC to provide the title compound.

reactant | 4-(2-methoxy-phenyl)-piperidine | 0.03 mmol | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | 1-(2-chloro-ethyl)-3-quinolin-4-yl-urea | 0.03 mmol | ClCCNC(=O)NC1=CC=NC2=CC=CC=C12 | C12H12ClN3O
reactant | NaHCO3 | 2.5 mg | C(=O)(O)[O-].[Na+]
reactant | NaI | 1 mg | [Na+].[I-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-{2-[4-(2-Methoxy-phenyl)-piperidin-1-yl]-ethyl}3-(2-methyl-quinolin-4-yl)-urea | COC1=C(C=CC=C1)C1CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C25H30N4O2
